US05025031
Sulfamic acid 2-chlorophenyl ester
This compound was prepared by the procedure used in Example 56. A mixture of 12.8 g (0.1 mole) of 2-chlorophenol, 14.8 g (0.105 mole) of chlorosulfonyl isocyanate and 75 ml of toluene gave 12.2 g (59%) of the title compound as a white solid, mp 62.5°-63.5° C. (cyclohexane-benzene).

reactant | 2-chlorophenol | 0.1 mole, 12.8 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | chlorosulfonyl isocyanate | 0.105 mole, 14.8 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | cyclohexane benzene | C1CCCCC1.C1=CC=CC=C1
product | Sulfamic acid 2-chlorophenyl ester | 12.2 g, 59% | ClC1=C(C=CC=C1)OS(N)(=O)=O | C6H6ClNO3S
